US08975417B2
Step 109.1: 2,6-dichloro-4-methyl-3-nitropyridine
To a suspension of 2,6-dichloro-4-methylpyridine (1 g, 6.17 mmol) in trifluoroacetic acid anhydride (5 mL, 35.4 mmol) cooled down to 0° C. was added dropwise nitric acid (0.579 mL, 12.96 mmol) into it. The resulting solution was stirred at RT for 18 hr. The reaction mixture was added slowly to a chilled solution of sodium metabisulfite (1.183 g, 6.17 mmol) in water (8 mL) and stirred at RT for 2 hr. The reaction mixture was neutralized to pH 7 using 8N NaOH solution and extracted twice with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduced pressure to afford the title product (1.187 g, 5.73 mmol, 93% yield) as white solid. tR: 1.07 min (LC-MS 2); ESI-MS: 208 [M+H]+ (LC-MS 2); 1H NMR (400 MHz, DMSO-d6) δ ppm 2.39 (s, 3H) 7.90 (s, 1H).

reactant | 2,6-dichloro-4-methylpyridine | 6.17 mmol, 1 g | ClC1=NC(=CC(=C1)C)Cl | C6H5Cl2N
reactant | trifluoroacetic acid anhydride | 35.4 mmol, 5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | nitric acid | 12.96 mmol, 0.579 mL | [N+](=O)(O)[O-] | HNO3
reactant | sodium metabisulfite | 6.17 mmol, 1.183 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | NaOH | 8N | [OH-].[Na+]
solvent | water | 8 mL | O | H2O
product | 2,6-dichloro-4-methyl-3-nitropyridine | 5.73 mmol, 1.187 g, 93% yield | ClC1=NC(=CC(=C1[N+](=O)[O-])C)Cl | C6H4Cl2N2O2
